### PR TITLE
feat: statically sized Vector type

### PR DESCRIPTION
**Pull request by Shreyas4991**
This PR adds a static vector type to batteries akin to `Mathlib.Data.Vector` with a key difference: It is based on `Array` instead of `List` and is designed for efficient operations with while offering a static size . ~~The PR attempts to make the API of `Batteries.Data.Vector` isomorphic to `Mathlib.Data.Vector` to the maximum possible extent.~~

EDIT: This PR also extends all the Array API to Vector
For discussion see [this Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/348111-batteries/topic/RFC.3A.20Arrays.20with.20fixed.20length/near/438122610)

EDIT:  After consideration of the magnitude of the task, I limit this PR itself to porting non-monadic functions from Init.Data.Array.Basic and some surrounding API, as well as the extension theorem. I will create further PRs  for adapting monadic functions, relevant theorems, and elements of the Array API already present in Batteries and Init

Depends on
- [x] #801 
- [x] #877  : Later Vector.map_empty needs to be changed to use the lemma introduced there.

### CODE REVIEW

File: Batteries/Data/Vector/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,249 @@
...
+open Array
+
+/--
+  `Vector α n` is an `Array α` whose size is statically fixed to `n`
+-/
+def Vector (α : Type u) (n : Nat) := {a : Array α // a.size = n}
+
+/--
+  `Vector.size` gives the size of a vector. It is the vector counterpart to
+  `Array.size`
```
Comment (nomeata) [inline Batteries/Data/Vector/Basic.lean:16]: Not sure how useful the last sentence is, when it's rather obvious (i.e. same name). Also, a user of `Vector` may not care too much about `Array` itself.

File: Batteries/Data/Vector/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,249 @@
...
+/-- nth element of a vector, indexed by a `Fin` type. -/
+def get (v : Vector α n) (i : Fin n) : α :=
+  v.1.get <| i.cast v.2.symm
+
+/-- Appending a vector to another. -/
+def append {n m : Nat} : Vector α n → Vector α m → Vector α (n + m)
+  | ⟨a₁, h₁⟩, ⟨a₂, h₂⟩ => ⟨a₁ ++ a₂, by rw[Array.size_append, ←h₁,←h₂]⟩
+
+
+/--Eliminator for `Vector α n`-/
```
Comment (nomeata) [inline Batteries/Data/Vector/Basic.lean:86]:
```suggestion
/-- Eliminator for `Vector α n`-/
```

File: Batteries/Data/Vector/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,249 @@
...
+  | ⟨{data := _}, _⟩ => rfl
+
+
+/-- Mapping two vectors under a curried function of two variables. -/
+def map₂ (f : α → β → φ) : Vector α n → Vector β n → Vector φ n
+  | ⟨a, h₁⟩, ⟨b, h₂⟩ => ⟨Array.zipWith a b f, by simp [Array.size_zipWith, h₁, h₂]⟩
+
+/-- Vector obtained by repeating an element. -/
+def replicate (n : Nat) (a : α) : Vector α n :=
+  ⟨{data := List.replicate n a}, List.length_replicate n a⟩
```
Comment (nomeata) [inline Batteries/Data/Vector/Basic.lean:117]: As a user I would expect an `Array` backed vector to have efficient implementations for all operations that don't go through lists (because if I wouldn't care about performance, certainly backing this by lists or an inductive type would be convenient for proving). So operations like this ought to be backed by efficient Array operations. Where those don't exist yet, maybe they need to be added?

**Review by nomeata — COMMENTED** [review]
Thanks! Looking forward to having that. I wonder how soon we'd like to have it (or a private copy) in core. I certainly wrote code there where I thought it would be easier with this…

I noticed that not all operations are backed by Array operations; at least not all that could be. It seems like it should be the case, shouldn't it?

Can we also get nice `#[a,b,c]` syntax for terms and patterns? Especially in patterns its nice if that is then a complete pattern.

**Comment by Shreyas4991** [comment]
Changing all operations to array operations is my next goal. This causes quite a bit of proof breakage that will have to be fixed. It doesn't make sense to turn operations like head and cons into array operations I suppose?

File: Batteries/Data/Vector/Basic.lean (hunk 3 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:117]: This is correct. I am changing the operations one by one. However there are some operations like `replicate` that would be `O(n)` regardless. So does it make sense to replace those?

Comment (nomeata) [reply Batteries/Data/Vector/Basic.lean:117]: Yes! It's not just about asymptomatics; creating a list first and then converting to an array is slower than allocating an array (of known final size even!) and filling it mutably.

**Comment by nomeata** [comment]
> It doesn't make sense to turn operations like head and cons into array operations I suppose?

`head` certainly! Not sure about `cons`. Maybe it shouldn't be there? Or at least with a warning.

**Comment by nomeata** [comment]
(also I should mention that I'm just offering unsolicited opinions here, the maintainers have authority here)

**Comment by Shreyas4991** [comment]
I have started porting the large Array API under `Init.Data.Array.Basic`. This is a very large file, so I expect this to take some time.

File: Batteries/Data/Vector/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,387 @@
...
+
+/-- Create a vector from another with a provably equal length. -/
+protected def congr {n m : Nat} (h : n = m) : Vector α n → Vector α m
+  | ⟨x, p⟩ => ⟨x, h ▸ p⟩
+
+
+-- Swap functions
+/--
+Swaps two entries in an array, or panics if either index is out of bounds.
+
```
Comment (somombo) [inline Batteries/Data/Vector/Basic.lean:281]: Is there a reason why 

```lean
def swap (v : Vector α n) (i j : Fin n) : Vector α n :=
  ⟨Array.swap v.val ⟨i.val, sorry⟩ ⟨j.val, sorry⟩, sorry⟩
```

is not also defined?

Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:281]: I should add it. Thanks :) . This section comes from the basic array defs file. The idea being to achieve the maximum possible feature parity with Arrays. I must missed it when borrowing function signatures from there.

Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:283]: I have fixed this in the next commit.

File: Batteries/Data/Vector/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,446 @@
...
+@[match_pattern]
+def nil : Vector α 0 := ⟨Array.empty, by rfl⟩
+
+/--
+  `Vector.cons` is the list cons pattern for vectors
+-/
+@[match_pattern]
+def cons (x : α) (xs : Vector α n) : Vector α (Nat.succ n) :=
+  match xs with
+  | ⟨{data := xs'}, h⟩ => ⟨{data := x :: xs'}, congrArg Nat.succ h⟩
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:46]: It seems to me that these can't work as match patterns.

File: Batteries/Data/Vector/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,446 @@
...
+
+/--
+  `Vector.head` produces the head of a vector
+-/
+def head (v : Vector α (Nat.succ n)) :=
+  match v with
+  | ⟨{data := a :: _}, _⟩ => a
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:53]:
```suggestion
def head (v : Vector α (n+1)) := v.toArray.get ⟨0, v.size_eq.symm ▸ Nat.zero_lt_succ n⟩
```

File: Batteries/Data/Vector/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,446 @@
...
+
+/--
+  `Vector.tail` produces the tail of a vector
+-/
+def tail (v : Vector α n) : Vector α (n-1):=
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:58]: Should use `Array.feraseIdx`.

Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:57]: Thanks I added it.

File: Batteries/Data/Vector/Basic.lean (hunk 3 above)
Comment (fgdorais) [reply Batteries/Data/Vector/Basic.lean]: I would use `ofFn` to implement this one.

Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: I already replaced this

File: Batteries/Data/Vector/Basic.lean (hunk 5 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:46]: This one is a legacy of Mathlib.Vector

Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:46]: I should probably remove them entirely.

File: Batteries/Data/Vector/Basic.lean (hunk 3 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Strictly speaking it is a duplicate of `mkVector` again present because of the Mathlib Vector API. I think it should be deleted altogether

File: Batteries/Data/Vector/Basic.lean (hunk 7 above)
Comment (fgdorais) [reply Batteries/Data/Vector/Basic.lean]: Suggestion
```lean
/--
  Remove the element at a given index from a vector without bounds checks, using a `Fin` index.

  This function takes worst case O(n) time because it has to backshift all elements at positions 
  greater than i.
-/
def feraseIdx : Vector α n → Fin n → Vector α (n-1)
  | ⟨a, h⟩, ⟨i, hi⟩ => ⟨a.feraseIdx ⟨i, h ▸ hi⟩, h ▸ a.size_feraseIdx ..⟩

/--
  `Vector.tail` produces the tail of a vector
-/
def tail (v : Vector α n) : Vector α (n-1) := 
  match n with
  | 0 => v
  | _+1 => v.feraseIdx 0
```

Comment (fgdorais) [reply Batteries/Data/Vector/Basic.lean]: I just noticed! To follow the Array API, `eraseIdx` would use a `Nat` index instead of a `Fin` index.

File: Batteries/Data/Vector/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,447 @@
...
+import Batteries.Data.List.Lemmas
+
+namespace Vector
+
+open Array Lean
+
+/--
+  `Vector α n` is an `Array α` whose size is statically fixed to `n`
+-/
+structure Vector (α : Type u) (n : Nat) where
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:12]: Should be outside the `Vector` namespace.

File: Batteries/Data/Vector/Basic.lean (hunk 5 above)
Comment (fgdorais) [reply Batteries/Data/Vector/Basic.lean:46]: I agree: `nil` is just `#v[]` and `cons` is just `#v[x] ++ xs`.

File: Batteries/Data/Vector/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,447 @@
...
+        omega
+      h ▸ (shrink (Vector.pop v) x)
+
+/--
+`isEqvAux a b hsz p i` is a helper function for `isEqv`. It performs
+an index by index check on whether the corresponding elements of a vector
+satisfy the boolean property `p` starting at a given index `i`
+-/
+def isEqvAux (a b : Vector α n)
+  (hsz : size a = size b)
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:382]: That hypothesis is just `n = n`. I don't think this def is needed for vectors.

File: Batteries/Data/Vector/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,447 @@
...
+
+/--
+`isEqv` takes a given boolean property `p`. It returns `true`
+if and only if `p a[i] b[i]` holds true for all valid indices `i`.
+-/
+def isEqv (a b : Vector α n) (p : α → α → Bool) : Bool :=
+  if h : size a = size b then
+    isEqvAux a b h p 0
+  else
+    false
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:401]: Unreachable since `size a = n` and `size b = n`.

File: Batteries/Data/Vector/Basic.lean (hunk 8 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:9]: Done

File: Batteries/Data/Vector/Basic.lean (hunk 9 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:378]: This is an aux theorem because I had issues with `apply`ing `Array.ext`

Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:378]: Oh shoot I see what you mean

Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done

File: Batteries/Data/Vector/Basic.lean (hunk 7 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: The array version returns an array of the same size if `i < n` is not true. This doesn't make sense for `Vector a (n-1)`

File: Batteries/Data/Vector/Basic.lean (hunk 10 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Fixed

File: Batteries/Data/Vector/Basic.lean (hunk 5 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done. Moved the function below append. Added an HAppend instance.

File: Batteries/Data/Vector/Basic.lean (hunk 7 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done. But I had to add a type class constraint `[Inhabited \alpha]` because panic somehow requires this and unlike `swapAt!` there is no obvious candidate to show `Inhabited \alpha` which leads to `Inhabited (Vector \alpha (n-1))`

Comment (fgdorais) [reply Batteries/Data/Vector/Basic.lean]: How about adding `let _ : Inhabited (Vector α (n-1)) := ⟨v.tail⟩`?

Comment (fgdorais) [reply Batteries/Data/Vector/Basic.lean]: This works:
```lean
def eraseIdx! [Inhabited α] (v : Vector α n) (i : Nat) : Vector α (n-1) :=
    if h : i < n then
      feraseIdx v ⟨i,h⟩
    else
      let _ : Inhabited (Vector α (n-1)) := ⟨v.tail⟩
      panic! s!"Index {i} is out of bounds"
```

**Comment by Shreyas4991** [comment]
I would like to merge this PR in order to avoid putting too many things. Subsequent PRs will:
1. Add a separate file for monadic defs and their dependents.
2. Port Array lemmas.

File: Batteries/Data/Vector/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,507 @@
...
+    |> push v₁
+    |> push v₂
+    |> push v₃
+    |> push v₄
+    |> push v₅
+    |> push v₆
+    |> push v₇
+
+/-- Create vector `#[v₁, v₂, v₃, v₄, v₅, v₆, v₇, v₈]` -/
+def mkVector8 (v₁ v₂ v₃ v₄ v₅ v₆ v₇ v₈ : α) : Vector α 8 :=
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:204]: I'm not sure we need `mkVector1` .. `mkVector8`. Then again, I'm also not sure why the Array API contains these. This needs some investigating...

File: Batteries/Data/Vector/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,507 @@
...
+
+
+/-- Mapping two vectors under a curried function of two variables. -/
+def map₂ (f : α → β → φ) : Vector α n → Vector β n → Vector φ n
+  | ⟨a, h₁⟩, ⟨b, h₂⟩ => ⟨Array.zipWith a b f, by simp [Array.size_zipWith, h₁, h₂]⟩
+
+
+/- OVERLAP : `mkVector`-/
+/-- Vector obtained by repeating an element -/
+def replicate (n : Nat) (a : α) : Vector α n := mkVector n a
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:251]: Remove duplicate.

File: Batteries/Data/Vector/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,507 @@
...
+
+
+
+/-- Vector of length `n` from a function on `Fin n`. -/
+def ofFn : ∀ {n}, (Fin n → α) → Vector α n
+  | 0, _ => nil
+  | _ + 1, f => cons (f 0) (ofFn fun i => f i.succ)
+
+/-- Create a vector from another with a provably equal length. -/
+protected def congr {n m : Nat} (h : n = m) : Vector α n → Vector α m
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:269]: Shouldn't this be called `cast`?

File: Batteries/Data/Vector/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,507 @@
...
+  | ⟨x, p⟩ => ⟨x, h ▸ p⟩
+
+
+-- Swap functions
+/--
+Swaps two entries in an array, or panics if either index is out of bounds.
+
+This will perform the update destructively provided that `a` has a reference
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:277]: Make sure the destructive update claim is actually true.

File: Batteries/Data/Vector/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,507 @@
...
+  (hle : m ≤ n) (i : Nat) : Bool :=
+  have : as.toArray.size ≤ bs.toArray.size := by
+    simp only [as.size_eq, bs.size_eq, hle]
+    done
+  Array.isPrefixOfAux as.toArray bs.toArray this i
+
+/--
+Return true iff vector `as` is a prefix of vector`bs`
+-/
+def isPrefixOf [BEq α] (as bs : Vector α n) : Bool :=
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:473]:
```suggestion
def isPrefixOf [BEq α] (as : Vector α m) (bs : Vector α n) : Bool :=
```

**Review by fgdorais — CHANGES_REQUESTED** [review]
First pass on Vector.Basic.

File: Batteries/Data/Vector/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,507 @@
...
+  | ⟨a₁, h₁⟩, ⟨a₂, h₂⟩ => ⟨a₁ ++ a₂, by rw[Array.size_append, ←h₁,←h₂]⟩
+
+
+instance : HAppend (Vector α n) (Vector α m) (Vector α (n + m)) where
+  hAppend := append
+/--
+  `Vector.head` produces the head of a vector
+-/
+def head (v : Vector α (n+1)) :=
+  v.toArray.get ⟨0, v.size_eq.symm ▸ Nat.zero_lt_succ n⟩
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:126]: Sounds good. Should we also do this for cons? It might preserve compatibility with the Mathlib Vector API.

File: Batteries/Data/Vector/Basic.lean [hunk 17]
```diff
@@ -0,0 +1,507 @@
...
+
+
+/--
+  `Vector.cons` is the list cons pattern for vectors
+-/
+
+def cons (x : α) (xs : Vector α n) : Vector α (n + 1) := Nat.add_comm 1 n ▸ (#v[x] ++ xs)
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:133]: Backward compatibility with Mathlib's Vector is the only reason I can think of.  We could try turning it into an abbrev (ref : [the comment above](https://github.com/leanprover-community/batteries/pull/793#discussion_r1599040955))

File: Batteries/Data/Vector/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,507 @@
...
+/--Make a vector of size `n` with all cells containing `v`-/
+def mkVector (n : Nat) (v : α) : Vector α n :=
+  ⟨mkArray n v, proof⟩
+  where
+    proof := by
+      simp only [size_mkArray]
+      done
+
+/-- Create vector `#[]` -/
+def mkVector0 : Vector α 0 :=
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:144]: Agreed. This is only there to maintain one-to-one match with the Array API.

File: Batteries/Data/Vector/Basic.lean (hunk 11 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:204]: Perhaps @digama0 or @semorrison know more?

File: Batteries/Data/Vector/Basic.lean (hunk 12 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done

File: Batteries/Data/Vector/Basic.lean (hunk 14 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:272]: It uses the corresponding Array swap functions whose docstrings claim that the updates are destructive for linear references

File: Batteries/Data/Vector/Basic.lean (hunk 15 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done

File: Batteries/Data/Vector/Basic.lean (hunk 13 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:264]: This is from the Mathlib Vector API. There is no Array equivalent, so I let the name remain unchanged.

File: Batteries/Data/Vector/Basic.lean (hunk 18 above)
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 16 above)
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean [hunk 19]
```diff
@@ -0,0 +1,507 @@
...
+-/
+@[nolint unusedArguments]
+def size (_ : Vector α n) : Nat := n
+
+
+/--
+  `Vector.nil` produces an empty vector
+-/
+
+def nil : Vector α 0 := ⟨Array.empty, by rfl⟩
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 11 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:194]: I also fixed the notation in the docstring

File: Batteries/Data/Vector/Basic.lean (hunk 13 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done

File: Batteries/Data/Vector/Lemmas.lean [hunk 20]
```diff
@@ -0,0 +1,59 @@
...
+import Batteries.Data.List.Basic
+import Batteries.Data.List.Lemmas
+import Batteries.CodeAction
+
+namespace Vector
+
+
+/-- A `nil` vector maps to a `nil` vector. -/
+@[simp]
+theorem map_nil (f : α → β) : map f empty = empty :=
```
Comment (fgdorais) [inline Batteries/Data/Vector/Lemmas.lean:11]: Rename.

File: Batteries/Data/Vector/Lemmas.lean [hunk 21]
```diff
@@ -0,0 +1,59 @@
...
+theorem eq : ∀ v w: Vector α n,
+  v.toArray = w.toArray → v = w := by
+  intro v w h
+  cases v with
+  | mk v_arr vh =>
+    cases w with
+    | mk w_arr wh =>
+      simp only at h
+      rw [h] at vh
+      simp only [h]
```
Comment (fgdorais) [inline Batteries/Data/Vector/Lemmas.lean:24]:
```suggestion
theorem eq : ∀ v w : Vector α n, v.toArray = w.toArray → v = w
  | {..}, {..}, rfl => rfl
```

File: Batteries/Data/Vector/Lemmas.lean [hunk 22]
```diff
@@ -0,0 +1,59 @@
...
+
+/-- A vector of length `0` is a `nil` vector. -/
+protected theorem eq_nil (v : Vector α 0) : v = empty := by
```
Comment (fgdorais) [inline Batteries/Data/Vector/Lemmas.lean:27]: Rename.

File: Batteries/Data/Vector/Lemmas.lean [hunk 23]
```diff
@@ -0,0 +1,59 @@
...
+  intro i hi₁ hi₂
+  rw [a.size_eq] at hi₁
+  replace h := h i hi₁
+  simp [get] at h
+  exact h
+  done
+
+instance : GetElem (Vector α n) Nat α fun _ i => i < n where
+  getElem := fun x i h => get x ⟨i, h⟩
+end Vector
```
Comment (fgdorais) [inline Batteries/Data/Vector/Lemmas.lean:59]: Duplicate.

File: Batteries/Data/Vector/Lemmas.lean [hunk 24]
```diff
@@ -0,0 +1,59 @@
...
+@[ext]
+theorem ext (a b :Vector α n)
+  (h : (i : Nat) → (h : i < n) → get a ⟨i,h⟩ = get b ⟨i,h⟩) : a = b := by
+  apply extAux
+  intro i hi₁ hi₂
+  rw [a.size_eq] at hi₁
+  replace h := h i hi₁
+  simp [get] at h
+  exact h
+  done
```
Comment (fgdorais) [inline Batteries/Data/Vector/Lemmas.lean:55]:
```suggestion
@[ext] 
protected theorem ext (a b : Vector α n) (h : (i : Nat) → (_ : i < n) → a[i] = b[i]) : a = b := by
  apply Vector.eq
  apply Array.ext
  · rw [a.size_eq, b.size_eq]
  · intro i hi _
    rw [a.size_eq] at hi
    exact h i hi
```

**Review by fgdorais — CHANGES_REQUESTED** [review]
Review Vector.Lemmas.

File: Batteries/Data/Vector/Lemmas.lean (hunk 21 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Lemmas.lean]: Done.

File: Batteries/Data/Vector/Lemmas.lean (hunk 22 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Lemmas.lean]: Done.

File: Batteries/Data/Vector/Lemmas.lean (hunk 23 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Lemmas.lean]: Done. Removed it.

File: Batteries/Data/Vector/Lemmas.lean (hunk 24 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Lemmas.lean]: Done. Removed it. Gosh  why didn't I think of that. It is so much better.

File: Batteries/Data/Vector/Lemmas.lean (hunk 20 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Lemmas.lean]: Done

File: Batteries/Data/Vector/Basic.lean (hunk 11 above)
Comment (fgdorais) [reply Batteries/Data/Vector/Basic.lean:194]: I think these are useful to quickly write expressions for short vectors in meta code. They would need unexpanders to work well. I think we could hold off on these until they are needed but let's see if Mario or Kim have thoughts.

File: Batteries/Data/Vector/Basic.lean (hunk 17 above)
[the remark this answers is not in the document]
Comment (fgdorais) [reply Batteries/Data/Vector/Basic.lean:126]: There's a danger here that a user might think this is an efficient op since `cons` is O(1) for lists. However, `push` is the `O(1)` op for arrays and vectors. There at least needs to be a big warning about this. (Especially since it is actually `O(1)` for mathlib vectors.)

File: Batteries/Data/Vector/Basic.lean (hunk 11 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:194]: Makes sense. I suggest we leave this operation in place with a warning in the docstring.

File: Batteries/Data/Vector/Basic.lean (hunk 17 above)
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:126]: Here's a suggestion : We leave this definition in place for compatibility, but add a warning that this operation is not O(1). I think the docstrings support markdown so we can make the warning bold.

File: Batteries/Data/Vector/Basic.lean (hunk 11 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:194]: Found some uses for mkArray4 in [core](https://github.com/search?q=repo%3Aleanprover%2Flean4%20mkArray4&type=code)

Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:194]: I think it makes sense to keep these definitions

Comment (fgdorais) [reply Batteries/Data/Vector/Basic.lean:194]: In that case, please add unexpanders as in core's Init.NotationExtra.

File: Batteries/Data/Vector/Basic.lean (hunk 17 above)
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:126]: OTOH, as I said in the zulip thread. This cons function is very unnatural for Vectors. No memory allocator expands an allocation bidirectionally in memory

File: Batteries/Data/Vector/Basic.lean (hunk 11 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:196]: Done. I reintroduced `mkVector0` to be consistent with the unexpanders for `Array`. I put them in a separate file called `Unexpanders.lean`

File: Batteries/Data/Vector/Basic.lean [hunk 25]
```diff
@@ -0,0 +1,494 @@
...
+/-- Take `i` elements from a vector of length `n`; we can have `i > n`. -/
+def take (i : Nat) : Vector α n → Vector α (min i n)
+  | ⟨{data := l}, p⟩ => ⟨{data := List.take i l}, by simp [*]⟩
+
+
+
+/-- Vector of length `n` from a function on `Fin n`. -/
+def ofFn : ∀ {n}, (Fin n → α) → Vector α n
+  | 0, _ => empty
+  | _ + 1, f => cons (f 0) (ofFn fun i => f i.succ)
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:253]: This shouldn't use `cons` since that makes it O(n^2). Use `Array.ofFn` instead.

File: Batteries/Data/Vector/Basic.lean (hunk 1 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: @nomeata I fixed that docstring. It doesn't refer to Array.size anymore

File: Batteries/Data/Vector/Basic.lean [hunk 26]
```diff
@@ -0,0 +1,494 @@
...
+def map₂ (f : α → β → φ) : Vector α n → Vector β n → Vector φ n
+  | ⟨a, h₁⟩, ⟨b, h₂⟩ => ⟨Array.zipWith a b f, by simp [Array.size_zipWith, h₁, h₂]⟩
+
+/-- Drop `i` elements from a vector of length `n`; we can have `i > n`. -/
+def drop (i : Nat) : Vector α n → Vector α (n - i)
+  | ⟨{data := l}, p⟩ => ⟨{data := List.drop i l}, by simp [*]⟩
+
+/-- Take `i` elements from a vector of length `n`; we can have `i > n`. -/
+def take (i : Nat) : Vector α n → Vector α (min i n)
+  | ⟨{data := l}, p⟩ => ⟨{data := List.take i l}, by simp [*]⟩
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:246]: These have similar issues to `cons` but not nearly as bad. Nevertheless, they should be implemented using `extract`.

File: Batteries/Data/Vector/Basic.lean [hunk 27]
```diff
@@ -0,0 +1,494 @@
...
+      have size_eq : n = v.toArray.size := by
+        exact v.size_eq.symm
+      rw [←size_eq]
+      done
+
+
+/-- Eliminator for `Vector α n`-/
+@[elab_as_elim]
+def elim {C : ∀ {n}, Vector α n → Sort u}
+    (H : ∀ a : Array α, C ⟨a, rfl⟩) {n : Nat} : ∀ v : Vector α n, C v
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:225]: Custom eliminators are often useful but I'm not immediately seeing the use case for this one. Any example uses in Mathlib?

File: Batteries/Data/Vector/Basic.lean (hunk 26 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 25 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 27 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:225]: No idea about this. But I just noticed that the signature is wrong.

Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:225]: But we have so far not written many proofs with vectors purely using Vector's API. So I don't want to rule out the possibility

File: Batteries/Data/Vector/Basic.lean (hunk 11 above)
Comment (fgdorais) [reply Batteries/Data/Vector/Basic.lean:197]: I think `mkVector0` .. `mkVector8` could go in that file as well. That way they don't clutter Basic and it's more obvious what their purpose is.

File: Batteries/Data/Vector/Basic.lean [hunk 28]
```diff
@@ -0,0 +1,493 @@
...
+greater than i.
+ -/
+def eraseIdx! (v : Vector α n) (i : Nat) : Vector α (n-1) :=
+    if h : i < n then
+      feraseIdx v ⟨i,h⟩
+    else
+      have _ : Inhabited (Vector α (n-1)) := ⟨v.tail⟩
+      panic! "Index" ++ toString i ++ "is out of bounds"
+
+@[deprecated (since := "2024-05-04")] alias removeNth := eraseIdx
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:425]: Delete.

File: Batteries/Data/Vector/Basic.lean (hunk 27 above)
Comment (fgdorais) [reply Batteries/Data/Vector/Basic.lean:226]: I've played around with it a bit and I see the utility now. I recommend replacing with these two custom eliminators and moving closer to the top of the file.
```lean
/-- Custom eliminator for `Vector α n` -/
@[elab_as_elim]
def elimAsArray {motive : ∀ {n}, Vector α n → Sort u} (mk : ∀ a : Array α, motive ⟨a, rfl⟩) :
    {n : Nat} → (v : Vector α n) → motive v
  | _, ⟨a, rfl⟩ => mk a

/-- Custom eliminator for `Vector α n` -/
@[elab_as_elim]
def elimAsList {motive : ∀ {n}, Vector α n → Sort u} (mk : ∀ a : List α, motive ⟨⟨a⟩, rfl⟩) :
    {n : Nat} → (v : Vector α n) → motive v
  | _, ⟨⟨a⟩, rfl⟩ => mk a
```

File: Batteries/Data/Vector/Basic.lean (hunk 14 above)
Comment (fgdorais) [reply Batteries/Data/Vector/Basic.lean]: That's not quite enough: if the code increases the refcount before passing to `Array.swap` then the destructive update never happens.

File: Batteries/Data/Vector/Basic.lean (hunk 17 above)
[the remark this answers is not in the document]
Comment (fgdorais) [reply Batteries/Data/Vector/Basic.lean:127]: This is always a tough call. The first option is to add a big warning so that users hopefully don't use this function expecting it to be better than O(n). The second option is to prevent the footgun by not having this function at all. Since `#v[x] ++ v` is not less convenient than `.cons x v`, I lean toward option 2.

File: Batteries/Data/Vector/Basic.lean [hunk 29]
```diff
@@ -0,0 +1,493 @@
...
+def uget (v : Vector α n) (i : USize) (h : i.toNat < n) : α :=
+  Array.uget v.toArray i (v.size_eq.symm ▸ h)
+
+
+/--
+borrowed from array API:
+auxiliary declaration used in the equation compiler when pattern matching array literals.
+-/
+abbrev getLit (v : Vector α n) (i : Nat) (h₂ : i < n) : α :=
+  Vector.get v ⟨i, h₂⟩
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:334]: I don't think this does anything for vector. Someone who knows how `Array.getLit` interacts with the equation compiler could help here. Otherwise, delete.

File: Batteries/Data/Vector/Basic.lean [hunk 30]
```diff
@@ -0,0 +1,493 @@
...
+  match Array.indexOfAux v.toArray x i with
+  | some x => some <| v.size_eq ▸ x
+  | none => none
+
+/--
+If `x` is an element of vector `v` at index `j`,
+then `indexOf? v x` returns `some j`. Else it returns `none`.
+-/
+def indexOf? [BEq α] (v : Vector α n) (x : α) : Option (Fin n) :=
+  indexOfAux v x 0
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:442]:
```suggestion
def indexOf? [BEq α] (v : Vector α n) (x : α) : Option (Fin n) :=
  match n, v with | _, ⟨a, rfl⟩ => a.indexOf? x
```
The same trick should work elsewhere to get rid of all the `*Aux` definitions.

Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:442]: Although these functions are called auxiliary, I think all of them are useful in their own right. Many are more general than the functions they are used to define.

File: Batteries/Data/Vector/Basic.lean (hunk 28 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:425]: Isn't this alias kept around for compatibility reasons?

File: Batteries/Data/Vector/Basic.lean (hunk 30 above)
Comment (fgdorais) [reply Batteries/Data/Vector/Basic.lean:442]: Calling the array code is better than copying it. That way the vector code is automatically up to date with array.

File: Batteries/Data/Vector/Basic.lean (hunk 28 above)
Comment (fgdorais) [reply Batteries/Data/Vector/Basic.lean:425]: It's an alias in the Array namespace, `removeNth` never existed in the Vector namespace so this deprecated alias makes no sense.

File: Batteries/Data/Vector/Basic.lean (hunk 30 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:442]: Then the Vector API isn't complete. Every time someone wants to use an auxiliary function, they also have to deal with Array code

File: Batteries/Data/Vector/Basic.lean (hunk 28 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 30 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:439]: My ideal for Vectors is that I shouldn't have to peek underneath to use them as much as possible.

File: Batteries/Data/Vector/Basic.lean (hunk 11 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done

File: Batteries/Data/Vector/Basic.lean (hunk 14 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: If chaining a ref through let declarations like I have done at Vector.swapAt and as exists in Array.swapAt doesn't increase the ref count, then I think these swap functions should be O(1)

File: Batteries/Data/Vector/Basic.lean (hunk 27 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 30 above)
Comment (fgdorais) [reply Batteries/Data/Vector/Basic.lean:371]: All of these `*Aux` functions are poised to disappear in a forthcoming array cleanup in core, so they really don't belong in the vector API. If you believe these functions are useful, first add them to the array API with proper names and then add them to vector.

I general, it's a bad idea to copy the implementation of an array function instead of calling the array function. Remember that Array has deep compiler support, so the implementations are often dummy code just to please the kernel. Also, when the implementation in Array gets an update, the Vector implementation won't update itself and Vector will lag behind. In Batteries, performance and maintainability are always primary concerns.

File: Batteries/Data/Vector/Basic.lean (hunk 29 above)
Comment (fgdorais) [reply Batteries/Data/Vector/Basic.lean:266]: I was correct. This code does nothing for vectors. Delete it.

Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: done

File: Batteries/Data/Vector/Basic.lean (hunk 30 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

I removed the aux functions and used Array functions directly. That being said, I think there were many private functions like isPrefixOfAux, isEqvAux, and the diff Aux functions which I will find myself writing anyway. It might make sense salvage them in a later PR for both Arrays and Vectors. The problem is I don't want to touch core with its convoluted PR process.

File: Batteries/Data/Vector/Basic.lean [hunk 31]
```diff
@@ -0,0 +1,352 @@
...
+/--
+`pop v` returns the vector with the last element removed
+-/
+def pop (v : Vector α n) : Vector α (n-1) :=
+  ⟨Array.pop v.toArray, by {simp only [size_pop, v.size_eq]}⟩
+
+/--
+`shrink v m` removess the last `m` elements of a vector.
+-/
+def shrink (v : Vector α n) (m : Nat) : Vector α (n - m) :=
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:271]: A last one: this should use `Array.shrink`.

Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:271]: The size proof for that gets stuck on shrink.loop. Also, is this really optimised for Arrays? There is no attribute that indicates this : https://github.com/leanprover/lean4/blob/367b97885a484a2e17e4cdade8dcd7fe05dbfb4c/src/Init/Data/Array/Basic.lean#L136

Comment (fgdorais) [reply Batteries/Data/Vector/Basic.lean:271]: Add this at the end of Batteries.Data.Array.Lemmas:
```lean
/-! ### shrink -/

theorem size_shrink_loop (a : Array α) (n) : (shrink.loop n a).size = a.size - n := by
  induction n generalizing a with simp [shrink.loop]
  | succ n ih => simp [ih]; omega

theorem size_shrink (a : Array α) (n) : (a.shrink n).size = min a.size n := by
  simp [shrink, size_shrink_loop]; omega
```

Comment (fgdorais) [reply Batteries/Data/Vector/Basic.lean:271]: It probably won't be optimized until the new compiler arrives but it is definitely on the todo list.

Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 17 above)
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:127]: I think for now this should be as it is. We will need a clean up PR to rearrange defs, add any missing lemmas and so on, after everything else about array has been moved.

**Review by fgdorais — COMMENTED** [review]
Ready for community review.

**Comment by Shreyas4991** [comment]
awaiting-review

File: Batteries/Data/Vector/Basic.lean [hunk 32]
```diff
@@ -0,0 +1,339 @@
...
+-/
+
+import Batteries.Data.Array
+import Batteries.Data.List.Basic
+import Batteries.Data.List.Lemmas
+import Batteries.Tactic.Lint.Misc
+
+/--
+  `Vector α n` is an `Array α` whose size is statically fixed to `n`
+-/
```
Comment (semorrison) [inline Batteries/Data/Vector/Basic.lean:14]: https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/style.20guide.20for.20comments.3F/near/438709035

File: Batteries/Data/Vector/Basic.lean [hunk 33]
```diff
@@ -0,0 +1,330 @@
...
+    {n : Nat} → (v : Vector α n) → motive v
+  | _, ⟨⟨a⟩, rfl⟩ => mk a
+
+/-- Map a vector under a function. -/
+def map (f : α → β) : Vector α n → Vector β n
+  | ⟨a, h⟩ => ⟨Array.map f a, by simp [*]⟩
+
+/-- Mapping two vectors under a curried function of two variables. -/
+def map₂ (f : α → β → φ) : Vector α n → Vector β n → Vector φ n
+  | ⟨a, h₁⟩, ⟨b, h₂⟩ => ⟨Array.zipWith a b f, by simp [Array.size_zipWith, h₁, h₂]⟩
```
Comment (dupuisf) [inline Batteries/Data/Vector/Basic.lean:171]: Shouldn't this be called `zipWith` and have the same argument order as for `Array`?

File: Batteries/Data/Vector/Basic.lean [hunk 34]
```diff
@@ -0,0 +1,330 @@
...
+/-- Vector of length `n` from a function on `Fin n`. -/
+def ofFn (f : Fin n → α) : Vector α n := ⟨Array.ofFn f, by {rw [size_ofFn]}⟩
+
+/-- Create a vector from another with a provably equal length. -/
+protected def cast {n m : Nat} (h : n = m) : Vector α n → Vector α m
+  | ⟨x, p⟩ => ⟨x, h ▸ p⟩
+
+/--
+Swaps two entries in an array, or panics if either index is out of bounds.
+
```
Comment (dupuisf) [inline Batteries/Data/Vector/Basic.lean:192]:
```suggestion
/--
Swaps two entries in an array.

```
Since the indices are given as `Fin n`, this cannot panic.

File: Batteries/Data/Vector/Basic.lean [hunk 35]
```diff
@@ -0,0 +1,330 @@
...
+      rw [size_swap]
+      exact v.size_eq
+
+/--
+Swaps two entries in an vector, or panics if either index is out of bounds.
+
+This will perform the update destructively provided that `v` has a reference count of 1 when called.
+-/
+def swap! (v : Vector α n) (i j : Nat) : Vector α n :=
+  ⟨Array.swap! v.toArray i j, by {rw [size_swap!]; exact v.size_eq}⟩
```
Comment (dupuisf) [inline Batteries/Data/Vector/Basic.lean:209]: Shouldn't we have a version of this that also takes indices as `Nat`, but that tries to prove that they are within the array bounds using `get_elem_tactic`?

File: Batteries/Data/Vector/Basic.lean [hunk 36]
```diff
@@ -0,0 +1,330 @@
...
+  ⟨Array.reverse v.toArray, proof⟩
+  where
+    proof := by
+      rw [size_reverse]
+      exact v.size_eq
+/--
+Removes the element at a given index from a vector without bounds checks, using a Fin index.
+
+This function takes worst case O(n) time because it has to backshift all elements at positions
+greater than i.
```
Comment (dupuisf) [inline Batteries/Data/Vector/Basic.lean:285]:
```suggestion
Removes the element at a given index from a vector using a Fin index.

This function takes worst case O(n) time because it has to backshift all elements at positions
greater than i.
```

File: Batteries/Data/Vector/Basic.lean (hunk 33 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:171]: This function came from the Mathlib Vector library

File: Batteries/Data/Vector/Basic.lean (hunk 34 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done

File: Batteries/Data/Vector/Basic.lean (hunk 33 above)
Comment (dupuisf) [reply Batteries/Data/Vector/Basic.lean:171]: I don't think we should be afraid to override the mathlib Vector library, consistency with the Array API is far more important!

File: Batteries/Data/Vector/Basic.lean (hunk 35 above)
Comment (dupuisf) [reply Batteries/Data/Vector/Basic.lean:209]: Doesn't it use omega now?

Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:213]: How would it come up with such a proof without any statically provided hypothesis?

File: Batteries/Data/Vector/Basic.lean (hunk 33 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 35 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:213]: More specifically, I need to provide this proof statically because I have to construct a Vector with a proof that the index `i` is less than `n`. `Array` doesn't have to be constructed with such a proof.

Comment (dupuisf) [reply Batteries/Data/Vector/Basic.lean:213]: Depends on the context in which it's used (for instance, by being in a `Std.Range`, as you say). All you need to do to write the function is to have a version that takes the proof as an additional parameter, with default value `by get_elem_tactic`.

Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:213]: I tried it and it actually worked. What's a good suffix for these Nat indexed functions? I will add a Nat variant for every Fin index function that doesn't have a counterpart with a Nat index.

Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:224]: I added a `swapAtNat` and `swapNat` function. But I am not happy with the names. Is there a better nomenclature for these functions?

Comment (dupuisf) [reply Batteries/Data/Vector/Basic.lean:224]: I'm not too sure about the names either. We have names like `getD` for the version where there's a default value; maybe `swapN`...?

Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:224]: `swapN` sounds good to me.

Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:224]: `swapN` also sounds good.

Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:235]: Done. We now have `getN`, 'swapN`, `swapAtN` and `eraseIdxN`

File: Batteries/Data/Vector/Basic.lean [hunk 37]
```diff
@@ -0,0 +1,379 @@
...
+
+/-- Mapping two vectors under a curried function of two variables. -/
+def zipWith (f : α → β → φ) : Vector α n → Vector β n → Vector φ n
+  | ⟨a, h₁⟩, ⟨b, h₂⟩ => ⟨Array.zipWith a b f, by simp [Array.size_zipWith, h₁, h₂]⟩
+
+/-- Drop `i` elements from a vector of length `n`; we can have `i > n`. -/
+def drop (i : Nat) (v : Vector α n) : Vector α (n - i) :=
+  have : min n n - i = n - i := by
+    rw [Nat.min_self]
+  this.symm ▸ (extract v i n)
```
Comment (eric-wieser) [inline Batteries/Data/Vector/Basic.lean:192]: Here you are also using `▸` to change the size of a vector. I'm not sure this is desirable; a `Vector.cast` function would likely be better.

File: Batteries/Data/Vector/Basic.lean [hunk 38]
```diff
@@ -0,0 +1,379 @@
...
+
+This function takes worst case O(n) time because it has to backshift all elements at positions
+greater than i.
+-/
+def eraseIdx! (v : Vector α n) (i : Nat) : Vector α (n-1) :=
+  if h : i < n then
+    feraseIdx v ⟨i,h⟩
+  else
+    have _ : Inhabited (Vector α (n-1)) := ⟨v.tail⟩
+    panic! "Index" ++ toString i ++ "is out of bounds"
```
Comment (eric-wieser) [inline Batteries/Data/Vector/Basic.lean:348]:
```suggestion
    panic! s!"Index {i} is out of bounds"
```

File: Batteries/Data/Vector/Basic.lean [hunk 39]
```diff
@@ -0,0 +1,379 @@
...
+/-- `push v x` pushes `x` to the end of vector `v` in $$O(1)$$ time -/
+def push (x : α) (v : Vector α n)  : Vector α (n + 1) :=
+  ⟨v.toArray.push x, proof⟩
+  where
+    proof := by
+      simp only [size_push, Nat.reduceEqDiff]
+      exact v.size_eq
+
+/--
+Set an element in a vector without bounds checks, using a Fin index.
```
Comment (dupuisf) [inline Batteries/Data/Vector/Basic.lean:100]:
```suggestion
/--
Set an element in a vector using a Fin index.
```

File: Batteries/Data/Vector/Basic.lean [hunk 40]
```diff
@@ -0,0 +1,379 @@
...
+def elimAsList {motive : ∀ {n}, Vector α n → Sort u} (mk : ∀ a : List α, motive ⟨⟨a⟩, rfl⟩) :
+    {n : Nat} → (v : Vector α n) → motive v
+  | _, ⟨⟨a⟩, rfl⟩ => mk a
+
+/-- Map a vector under a function. -/
+def map (f : α → β) : Vector α n → Vector β n
+  | ⟨a, h⟩ => ⟨Array.map f a, by simp [*]⟩
+
+/-- Mapping two vectors under a curried function of two variables. -/
+def zipWith (f : α → β → φ) : Vector α n → Vector β n → Vector φ n
```
Comment (dupuisf) [inline Batteries/Data/Vector/Basic.lean:185]: Can you change the argument order to match `Array.zipWith`? (i.e. `f` comes last.)

File: Batteries/Data/Vector/Basic.lean [hunk 41]
```diff
@@ -0,0 +1,379 @@
...
+Automatically generates proof of `i < n` with `get_elem_tactic` where feasible.
+
+This will perform the update destructively provided that `v` has a reference count of 1 when called.
+-/
+def swapAtN (v : Vector α n) (i : Nat)
+  (h : i < n := by get_elem_tactic )  (x : α) : α × Vector α n :=
+  let e := Vector.get v ⟨i,h⟩
+  let v := Vector.set v ⟨i,h⟩ x
+  (e, v)
+/--
```
Comment (dupuisf) [inline Batteries/Data/Vector/Basic.lean:261]:
```suggestion
  (e, v)
  
/--
```

File: Batteries/Data/Vector/Basic.lean [hunk 42]
```diff
@@ -0,0 +1,379 @@
...
+  ⟨fun a b => isEqv a b BEq.beq⟩
+
+/-- `reverse v` reverses the vector `v` -/
+def reverse (v : Vector α n) : Vector α n :=
+  ⟨Array.reverse v.toArray, proof⟩
+  where
+    proof := by
+      rw [size_reverse]
+      exact v.size_eq
+/--
```
Comment (dupuisf) [inline Batteries/Data/Vector/Basic.lean:320]:
```suggestion
      exact v.size_eq
      
/--
```

File: Batteries/Data/Vector/Basic.lean [hunk 43]
```diff
@@ -0,0 +1,379 @@
...
+This function takes worst case O(n) time because it has to backshift all elements at positions
+greater than i.
+-/
+def eraseIdxN (v : Vector α n) (i : Nat)
+  (h : i < n := by get_elem_tactic) : Vector α (n - 1) :=
+  ⟨Array.feraseIdx v.toArray (v.size_eq.symm ▸ ⟨i, h⟩), proof⟩
+  where
+    proof := by
+      rw [Array.size_feraseIdx, v.size_eq]
+/--
```
Comment (dupuisf) [inline Batteries/Data/Vector/Basic.lean:364]:
```suggestion
      rw [Array.size_feraseIdx, v.size_eq]
      
/--
```

File: Batteries/Data/Vector/Basic.lean (hunk 41 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 42 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 43 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 38 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done. Both occurrences.

File: Batteries/Data/Vector/Basic.lean (hunk 35 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:253]: we also have `setN` now.

File: Batteries/Data/Vector/Basic.lean (hunk 37 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:208]: Vector.cast implicitly uses `\t`. Below is the definition:
```
/-- Create a vector from another with a provably equal length. -/
protected def cast {n m : Nat} (h : n = m) : Vector α n → Vector α m
  | ⟨x, p⟩ => ⟨x, h ▸ p⟩
```

File: Batteries/Data/Vector/Basic.lean (hunk 40 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean [hunk 44]
```diff
@@ -0,0 +1,379 @@
...
+/-- `Vector.head` produces the head of a vector -/
+abbrev head (v : Vector α (n+1)) :=
+  v.toArray.get ⟨0, v.size_eq.symm ▸ Nat.zero_lt_succ n⟩
+
+/--
+`Vector.cons` is the list cons pattern for vectors.
+
+**Warning** : This is an O(n) operation that prepends an element to a vector. It needs to shift all its previous elements one index to the right.
+-/
+def cons (x : α) (xs : Vector α n) : Vector α (n + 1) := Nat.add_comm 1 n ▸ (#v[x] ++ xs)
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:163]: One way to resolve this is to change the return type to `Vector α (1 + n)`. But all other functions return `Vector α (n + 1)` so this becomes inconsistent. Secondly, there was a discussion above that suggested that this function should be deleted. I agree that `cons` is a meaningless operation on Arrays, and a possible footgun for those expecting an `O(1)` `cons` from Mathlib's Vector

[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:163]: From the standpoint of writing code with the API without worrying about the order of summands, consistency matters more.

[the remark this answers is not in the document]
Comment (dupuisf) [reply Batteries/Data/Vector/Basic.lean:163]: I agree that we should just delete this function; it doesn't have any value added compared to just `#v[x] ++ xs` anyway.

File: Batteries/Data/Vector/Basic.lean (hunk 37 above)
Comment (eric-wieser) [reply Batteries/Data/Vector/Basic.lean:208]: Using `▸` in the proof field is fine. In `drop`, you're using it on the data, which is less fine.

File: Batteries/Data/Vector/Unexpanders.lean [hunk 45]
```diff
@@ -0,0 +1,137 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Shreyas Srinivas, Francois Dorais
+-/
+
+import Batteries.Data.Vector.Basic
+
+/-!
+## Vector.Unexpanders
+
+The definitions are used to provide unexpanders in metaprogramming. They correspond to similar array definitions `mkArray0`,...,`mkArray8` and their unexpanders in
```
Comment (fgdorais) [inline Batteries/Data/Vector/Unexpanders.lean:12]:
```suggestion
The definitions `mkVector*` provide convenient ways to write terms for short vectors, especially in metaprogramming. Unexpanders are provided make these shortcuts invisible to users.
```

Comment (fgdorais) [reply Batteries/Data/Vector/Unexpanders.lean:12]: (Please check for long lines.)

**Review by fgdorais — CHANGES_REQUESTED** [review]

File: Batteries/Data/Array/Lemmas.lean [hunk 46]
```diff
@@ -869,3 +869,14 @@ theorem swap_comm (a : Array α) {i j : Fin a.size} : a.swap i j = a.swap j i :=
     split
     · split <;> simp_all
     · split <;> simp_all
+
```
Comment (fgdorais) [inline Batteries/Data/Array/Lemmas.lean:872]:
```suggestion

/-! ### shrink -/
```

File: Batteries/Data/Vector/Basic.lean [hunk 47]
```diff
@@ -0,0 +1,403 @@
...
+
+macro_rules
+  | `(#v[ $elems,* ]) => `(Vector.mk (n := $(quote elems.getElems.size)) #[$elems,*] rfl)
+
+/-- `Vector.size` gives the size of a vector. -/
+@[nolint unusedArguments]
+def size (_ : Vector α n) : Nat := n
+
+/-- `Vector.empty` produces an empty vector -/
+def empty: Vector α 0 := ⟨Array.empty, by rfl⟩
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:43]:
```suggestion
def empty : Vector α 0 := ⟨Array.empty, rfl⟩
```

File: Batteries/Data/Vector/Basic.lean [hunk 48]
```diff
@@ -0,0 +1,403 @@
...
+
+/-- Make an empty vector with pre-allocated capacity-/
+def mkEmpty (capacity : Nat): Vector α 0 := ⟨Array.mkEmpty capacity, rfl⟩
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:46]:
```suggestion
def mkEmpty (capacity : Nat) : Vector α 0 := ⟨Array.mkEmpty capacity, rfl⟩
```

File: Batteries/Data/Vector/Basic.lean [hunk 49]
```diff
@@ -0,0 +1,403 @@
...
+abbrev getD (v : Vector α n) (i : Nat) (v₀ : α) : α :=
+  Array.getD v.toArray i v₀
+
+/--`get! v i` gets the `iᵗʰ` element of v if valid, else panics -/
+def get! [Inhabited α] (v : Vector α n) (i : Nat) : α :=
+  v.toArray.get! i
+
+/--
+`v.back! v` gets the last element of the vector.
+It uses the panicing function `get!`
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:82]:
```suggestion
panics if `v` is empty.
```

File: Batteries/Data/Vector/Unexpanders.lean (hunk 45 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Unexpanders.lean]: Yeah got those. vscode was wrapping around automatically making them harder to notice.

Comment (Shreyas4991) [reply Batteries/Data/Vector/Unexpanders.lean]: Done.

File: Batteries/Data/Vector/Basic.lean [hunk 50]
```diff
@@ -0,0 +1,403 @@
...
+-/
+def set! (v : Vector α n) (i : Nat) (x : α) : Vector α n :=
+  ⟨v.toArray.set! i x, proof⟩
+  where
+    proof := by
+      rw [set!_is_setD, size_setD]
+      exact v.size_eq
+
+/-- Appending a vector to another. -/
+def append {n m : Nat} : Vector α n → Vector α m → Vector α (n + m)
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:147]:
```suggestion
def append : Vector α n → Vector α m → Vector α (n + m)
```

File: Batteries/Data/Array/Lemmas.lean (hunk 46 above)
Comment (Shreyas4991) [reply Batteries/Data/Array/Lemmas.lean:872]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 37 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done. The only remaining occurrences should be in proofs.

File: Batteries/Data/Vector/Basic.lean (hunk 44 above)
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done. I deleted it.

File: Batteries/Data/Vector/Basic.lean [hunk 51]
```diff
@@ -0,0 +1,403 @@
...
+    proof := by
+      rw [size_mkArray]
+
+/--
+`extract v start halt` Returns the slice of `v` from indices `start` to `stop` (exclusive).
+If `start` is greater or equal to `stop`, the result is empty.
+If `stop` is greater than the size of `v`, the size is used instead.
+-/
+def extract (v : Vector α n)
+  (start : Nat) (halt : Nat) : Vector α (min halt n - start) :=
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:174]:
```suggestion
def extract (v : Vector α n) (start halt : Nat) : Vector α (min halt n - start) :=
```

File: Batteries/Data/Vector/Basic.lean [hunk 52]
```diff
@@ -0,0 +1,403 @@
...
+at positions greater than i.
+-/
+def feraseIdx (v : Vector α n) (i : Fin n) : Vector α (n-1) :=
+  ⟨Array.feraseIdx v.toArray (v.size_eq.symm ▸ i), proof⟩
+  where
+    proof := by
+      rw [Array.size_feraseIdx, v.size_eq]
+
+/-- `Vector.tail` produces the tail of a vector -/
+def tail (v : Vector α n)  : Vector α (n-1):=
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:347]:
```suggestion
def tail (v : Vector α n)  : Vector α (n-1) :=
```

File: Batteries/Data/Vector/Basic.lean [hunk 53]
```diff
@@ -0,0 +1,397 @@
...
+      exact v.size_eq
+
+/--
+Swaps two `Nat` indexed entries in a `Vector α n`.
+Uses `get_elem_tactic` to supply a proof that the indices are in range.
+
+This will perform the update destructively provided that `v` has a reference count of 1 when called.
+-/
+def swapN (v : Vector α n) (i j : Nat)
+  (h_i : i < n := by get_elem_tactic) (h_j : j < n := by get_elem_tactic) : Vector α n :=
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:232]:
```suggestion
    (h_i : i < n := by get_elem_tactic) (h_j : j < n := by get_elem_tactic) : Vector α n :=
```

File: Batteries/Data/Vector/Basic.lean [hunk 54]
```diff
@@ -0,0 +1,397 @@
...
+/--
+Swaps the entry with index `i : Nat` in the vector for a new entry `x`.
+The old entry is returned alongwith the modified vector.
+
+Automatically generates proof of `i < n` with `get_elem_tactic` where feasible.
+
+This will perform the update destructively provided that `v` has a reference count of 1 when called.
+-/
+def swapAtN (v : Vector α n) (i : Nat)
+  (h : i < n := by get_elem_tactic )  (x : α) : α × Vector α n :=
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:267]:
```suggestion
def swapAtN (v : Vector α n) (i) (h : i < n := by get_elem_tactic) (x : α) : α × Vector α n :=
```

File: Batteries/Data/Vector/Basic.lean [hunk 55]
```diff
@@ -0,0 +1,397 @@
...
+/--
+`eraseIdxN v i h` Removes the element at position `i` from a vector of length `n`.
+`h : i < n` has a default argument `by get_elem_tactic` which tries to supply a proof
+that the index is valid.
+
+This function takes worst case O(n) time because it has to backshift all elements at positions
+greater than i.
+-/
+def eraseIdxN (v : Vector α n) (i : Nat)
+  (h : i < n := by get_elem_tactic) : Vector α (n - 1) :=
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:374]:
```suggestion
def eraseIdxN (v : Vector α n) (i) (h : i < n := by get_elem_tactic) : Vector α (n - 1) :=
```

**Review by fgdorais — CHANGES_REQUESTED** [review]

File: Batteries/Data/Vector/Basic.lean (hunk 54 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:267]: This function doesn't fit into the line limit if the signature is on one line.

Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Okay now it barely does. 

Done.

File: Batteries/Data/Vector/Basic.lean (hunk 55 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: done.

File: Batteries/Data/Vector/Basic.lean (hunk 53 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: done.

File: Batteries/Data/Vector/Basic.lean (hunk 52 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: done.

File: Batteries/Data/Vector/Basic.lean (hunk 51 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: done.

File: Batteries/Data/Vector/Basic.lean (hunk 50 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: done.

File: Batteries/Data/Vector/Basic.lean (hunk 49 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: done.

File: Batteries/Data/Vector/Basic.lean (hunk 48 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: done.

File: Batteries/Data/Vector/Basic.lean (hunk 47 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: done.

**Comment by Shreyas4991** [comment]
A lot of the changes around newlines or whitespaces seem like they could be automatically solved by a tool like rustfmt

File: Batteries/Data/Vector/Basic.lean [hunk 56]
```diff
@@ -0,0 +1,395 @@
...
+def swap! (v : Vector α n) (i j : Nat) : Vector α n :=
+  ⟨Array.swap! v.toArray i j, by {rw [size_swap!]; exact v.size_eq}⟩
+
+/--
+Swaps the entry with index `i : Fin n` in the vector for a new entry.
+The old entry is returned with the modified vector.
+
+This will perform the update destructively provided that `v` has a reference count of 1 when called.
+-/
+def swapAt (v : Vector α n) (i : Fin n) (x : α) : α × Vector α n:=
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:253]: I'm not sure this actually does destructive updates. The array code doesn't make that claim.

It would be better to call `Array.swapAt` since that is more likely to be fixed so that destructive updates do happen.

File: Batteries/Data/Vector/Basic.lean [hunk 57]
```diff
@@ -0,0 +1,395 @@
...
+
+namespace Vector
+
+open Array Lean
+
+/-- Syntax for `Vector α n` -/
+syntax "#v[" withoutPosition(sepBy(term, ", ")) "]" : term
+
+macro_rules
+  | `(#v[ $elems,* ]) => `(Vector.mk (n := $(quote elems.getElems.size)) #[$elems,*] rfl)
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:36]:
```suggestion
namespace Vector
open Array

/-- Syntax for `Vector α n` -/
syntax "#v[" withoutPosition(sepBy(term, ", ")) "]" : term

open Lean in
macro_rules
  | `(#v[ $elems,* ]) => `(Vector.mk (n := $(quote elems.getElems.size)) #[$elems,*] rfl)
```

Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean [hunk 58]
```diff
@@ -0,0 +1,395 @@
...
+
+/--
+Swaps the entry with index `i : Nat` in the vector for a new entry `x`.
+The old entry is returned alongwith the modified vector.
+
+Automatically generates proof of `i < n` with `get_elem_tactic` where feasible.
+
+This will perform the update destructively provided that `v` has a reference count of 1 when called.
+-/
+def swapAtN (v : Vector α n) (i : Nat) (h : i < n := by get_elem_tactic) (x : α) : α × Vector α n :=
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:267]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 56 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean:254]: Done.

**Comment by Shreyas4991** [comment]
Added five N suffix functions to  `Batteries.Data.Array.Basic`

**Review by fgdorais — APPROVED** [review]
The organization could use some work (e.g. grouping things into sections) but that's not a dealbreaker. I'm happy to approve this in its current state with the expectation that non-code stuff will be fixed later.

File: Batteries/Data/Vector/Basic.lean [hunk 59]
```diff
@@ -0,0 +1,395 @@
...
+      rw [Array.size_feraseIdx, v.size_eq]
+
+/-- `Vector.tail` produces the tail of a vector -/
+def tail (v : Vector α n)  : Vector α (n-1) :=
+  match n with
+  | 0 => v
+  | _ + 1 => Vector.feraseIdx v 0
+
+/--
+`eraseIdx! v i` removes the element at position `i` from a vector of length `n` if `i < n`. Panics otherwise.
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:352]:
```suggestion
`eraseIdx! v i` removes the element at position `i` from a vector of length `n` if `i < n`.
Panics otherwise.
```

File: Batteries/Data/Array/Basic.lean [hunk 60]
```diff
@@ -153,6 +153,64 @@ Unsafe implementation of `attachWith`, taking advantage of the fact that the rep
...
+If this fails, a proof must be supplied at the function call.
+-/
+abbrev getN (a : Array α) (i : Nat) (h : i < a.size := by get_elem_tactic) : α :=
+  Array.get a ⟨i, h⟩
+
+/--
+`setN a i h x` sets an element in a vector using a Nat index which is provably valid.
+A proof by `get_elem_tactic` is provided as a default argument for `h`.
+
+This will perform the update destructively provided that a has a reference count of 1 when called.
```
Comment (semorrison) [inline Batteries/Data/Array/Basic.lean:178]:
```suggestion
This will perform the update destructively provided that `a` has a reference count of 1 when called.
```

Comment (Shreyas4991) [reply Batteries/Data/Array/Basic.lean]: Done.

File: Batteries/Data/Vector/Unexpanders.lean [hunk 61]
```diff
@@ -0,0 +1,138 @@
...
+## Vector.Unexpanders
+
+The definitions in this file are used to provide unexpanders in metaprogramming.
+They correspond to similar array definitions `mkArray0`,...,`mkArray8` and their unexpanders
+-/
+
+namespace Vector
+
+/-- Create empty vector `#v[]`-/
+def mkVector0 : Vector α 0 := empty
```
Comment (digama0) [inline Batteries/Data/Vector/Unexpanders.lean:19]: I don't think we need these functions. The corresponding functions in core have a specialized purpose, and I think we should add these only if we need them and have a specific application for them.

Comment (Shreyas4991) [reply Batteries/Data/Vector/Unexpanders.lean:19]: Wasn't there an interest in using this interface eventually in core?

**Comment by Shreyas4991** [comment]
Squashed everything into one commit.

File: Batteries/Data/Vector/Unexpanders.lean (hunk 61 above)
Comment (fgdorais) [reply Batteries/Data/Vector/Unexpanders.lean:19]: The description also doesn't match the one I suggested but that's lost now.

Comment (Shreyas4991) [reply Batteries/Data/Vector/Unexpanders.lean:19]: > The description also doesn't match the one I suggested but that's lost now.

Are you referring to the module doc?

Comment (fgdorais) [reply Batteries/Data/Vector/Unexpanders.lean:19]: Yes.

Comment (Shreyas4991) [reply Batteries/Data/Vector/Unexpanders.lean:19]: If the consensus is that `Unexpander.lean` should be removed then it can be done. But what is their purpose. Does it affect how vectors will be unexpanded in any way during proofs?

Comment (Shreyas4991) [reply Batteries/Data/Vector/Unexpanders.lean:19]: I found the module doc.

Comment (fgdorais) [reply Batteries/Data/Vector/Unexpanders.lean:19]: That's the one.

Comment (fgdorais) [reply Batteries/Data/Vector/Unexpanders.lean:19]: A bit moot now since this file is to be deleted.

Comment (Shreyas4991) [reply Batteries/Data/Vector/Unexpanders.lean:19]: @digama0 can I make a separate PR for deleting this file. This is to maintain the PR dependency requirement you suggested.

Comment (Shreyas4991) [reply Batteries/Data/Vector/Unexpanders.lean:19]: Not a dependency anymore. Unexpander can be deleted.

**Comment by Shreyas4991** [comment]
Took a suggestion by @dupuisf conveyed by @fgdorais that #800 need not depend on this PR. Hence I closed that PR  and made a simpler replacement #803

File: Batteries/Data/Vector/Unexpanders.lean (hunk 61 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Unexpanders.lean]: Done.

File: Batteries/Data/Vector/Basic.lean [hunk 62]
```diff
@@ -0,0 +1,396 @@
...
+  Vector.get! v (n - 1)
+
+/--
+`v.back?` gets the last element `x` of the array as `some x`
+if it exists. Else the vector is empty and it returns `none`
+-/
+def back? (v : Vector α n) : Option α :=
+  v.toArray.get? (n - 1)
+
+/-- `push v x` pushes `x` to the end of vector `v` in $$O(1)$$ time -/
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:95]:
```suggestion
/-- `push v x` pushes `x` to the end of vector `v` in O(1) time -/
```

File: Batteries/Data/Vector/Basic.lean [hunk 63]
```diff
@@ -0,0 +1,396 @@
...
+/-- Appends a vector to another. -/
+def append : Vector α n → Vector α m → Vector α (n + m)
+  | ⟨a₁, h₁⟩, ⟨a₂, h₂⟩ => ⟨a₁ ++ a₂, by rw[Array.size_append, ←h₁,←h₂]⟩
+
+instance : HAppend (Vector α n) (Vector α m) (Vector α (n + m)) where
+  hAppend := append
+
+/-- `Vector.head` produces the head of a vector -/
+abbrev head (v : Vector α (n+1)) :=
+  v.toArray.get ⟨0, v.size_eq.symm ▸ Nat.zero_lt_succ n⟩
```
[the remark this answers is not in the document]
Comment (fgdorais) [reply Batteries/Data/Vector/Basic.lean:156]: Move up near `back`.

File: Batteries/Data/Vector/Basic.lean [hunk 64]
```diff
@@ -0,0 +1,396 @@
...
+/--
+`extract v start halt` Returns the slice of `v` from indices `start` to `stop` (exclusive).
+If `start` is greater or equal to `stop`, the result is empty.
+If `stop` is greater than the size of `v`, the size is used instead.
+-/
+def extract (v : Vector α n) (start halt : Nat) : Vector α (min halt n - start) :=
+  ⟨Array.extract v.toArray start halt, proof⟩
+  where
+    proof := by
+      rw [size_extract, v.size_eq]
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:178]:
```suggestion
def extract (v : Vector α n) (start stop : Nat) : Vector α (min stop n - start) :=
  ⟨Array.extract v.toArray start stop, proof⟩
  where
    proof := by
      rw [size_extract, v.size_eq]
```

**Review by fgdorais — CHANGES_REQUESTED** [review]

File: Batteries/Data/Vector/Basic.lean (hunk 63 above)
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean [hunk 65]
```diff
@@ -0,0 +1,396 @@
...
+/-- `Vector.head` produces the head of a vector -/
+abbrev head (v : Vector α (n+1)) :=
+  v.toArray.get ⟨0, v.size_eq.symm ▸ Nat.zero_lt_succ n⟩
+
+/-- Makes a vector of size `n` with all cells containing `v` -/
+def mkVector (n : Nat) (v : α) : Vector α n :=
+  ⟨mkArray n v, proof⟩
+  where
+    proof := by
+      rw [size_mkArray]
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean [hunk 66]
```diff
@@ -0,0 +1,396 @@
...
+-/
+def swapAtN (v : Vector α n) (i : Nat) (h : i < n := by get_elem_tactic) (x : α) : α × Vector α n :=
+  swapAt v ⟨i,h⟩ x
+
+/--
+The Inhabited instance for `Vector α n` with `[Inhabited α]` produces a vector of size `n`
+with all its elements equal to the `default` element of type `α`
+-/
+instance [Inhabited α] : Inhabited (Vector α n) where
+  default := mkVector n default
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean [hunk 67]
```diff
@@ -0,0 +1,396 @@
...
+
+/--
+`swapAt! v i x` swaps out the entry at index `i : Nat` in the vector for `x`, if the index is valid.
+Otherwise it panics The old entry is returned with the modified vector.
+
+This will perform the update destructively provided that `v` has a reference count of 1 when called.
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean [hunk 68]
```diff
@@ -0,0 +1,396 @@
...
+-/
+def swap! (v : Vector α n) (i j : Nat) : Vector α n :=
+  ⟨Array.swap! v.toArray i j, by {rw [size_swap!]; exact v.size_eq}⟩
+
+/--
+Swaps the entry with index `i : Fin n` in the vector for a new entry.
+The old entry is returned with the modified vector.
+
+This will perform the update destructively provided that `v` has a reference count of 1 when called.
```
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 62 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 64 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean [hunk 69]
```diff
@@ -0,0 +1,391 @@
...
+/--
+The Inhabited instance for `Vector α n` with `[Inhabited α]` produces a vector of size `n`
+with all its elements equal to the `default` element of type `α`
+-/
+instance [Inhabited α] : Inhabited (Vector α n) where
+  default := mkVector n default
+
+/-- The list obtained from a vector. -/
+def toList (v : Vector α n) : List α :=
+  v.1.1
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:65]:
```suggestion
abbrev toList (v : Vector α n) : List α := v.1.1
```

File: Batteries/Data/Vector/Basic.lean [hunk 70]
```diff
@@ -0,0 +1,391 @@
...
+  getElem := fun x i h => get x ⟨i, h⟩
+
+/--
+`getN v i` gets the `iᵗʰ` element of v if valid.
+
+By default, the proof of validity `h : i < n` is supplied by the `get_elem_tactic`.
+If this fails, a proof must be supplied at the function call.
+-/
+abbrev getN (v : Vector α n) (i : Nat) (h : i < n := by get_elem_tactic) : α :=
+  Array.get v.toArray ⟨i, v.size_eq.symm ▸ h⟩
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:82]:
```suggestion
abbrev getN (v : Vector α n) (i : Nat) (h : i < n := by get_elem_tactic) : α := v[i]
```

File: Batteries/Data/Vector/Basic.lean [hunk 71]
```diff
@@ -0,0 +1,391 @@
...
+
+/--`get! v i` gets the `iᵗʰ` element of v if valid, else panics -/
+def get! [Inhabited α] (v : Vector α n) (i : Nat) : α :=
+  v.toArray.get! i
+
+/--
+`v.back! v` gets the last element of the vector.
+panics if `v` is empty.
+-/
+def back! [Inhabited α] (v : Vector α n) : α :=
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:99]:
```suggestion
abbrev back! [Inhabited α] (v : Vector α n) : α :=
```

File: Batteries/Data/Vector/Basic.lean [hunk 72]
```diff
@@ -0,0 +1,391 @@
...
+  Vector.get! v (n - 1)
+
+/--
+`v.back?` gets the last element `x` of the array as `some x`
+if it exists. Else the vector is empty and it returns `none`
+-/
+def back? (v : Vector α n) : Option α :=
+  v.toArray.get? (n - 1)
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:107]:
```suggestion
abbrev back? (v : Vector α n) : Option α :=
  v.get? (n - 1)
```

File: Batteries/Data/Vector/Basic.lean [hunk 73]
```diff
@@ -0,0 +1,391 @@
...
+
+/-- Drops `i` elements from a vector of length `n`; we can have `i > n`. -/
+def drop (i : Nat) (v : Vector α n) : Vector α (n - i) :=
+  have : min n n - i = n - i := by
+    rw [Nat.min_self]
+  Vector.cast this (extract v i n)
+
+/-- Takes `i` elements from a vector of length `n`; we can have `i > n`. -/
+def take (i : Nat) (v : Vector α n) : Vector α (min i n) :=
+  extract v 0 i
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:214]: This is the same as `shrink`.

**Review by fgdorais — CHANGES_REQUESTED** [review]

File: Batteries/Data/Vector/Basic.lean (hunk 69 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 70 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 72 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 73 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done. Added alias for take.

**Review by fgdorais — APPROVED** [review]

File: Batteries/Data/Vector/Lemmas.lean [hunk 74]
```diff
@@ -0,0 +1,46 @@
...
+protected theorem eq_empty (v : Vector α 0) : v = empty := by
+  apply Vector.eq v #v[]
+  apply Array.eq_empty_of_size_eq_zero v.2
+
+/--
+`Vector.ext` is an extensionality theorem.
+Vectors `a` and `b` are equal to each other if their elements are equal for each valid index.
+-/
+@[ext]
+protected theorem ext (a b : Vector α n) (h : (i : Nat) → (_ : i < n) → a[i] = b[i]) : a = b := by
```
Comment (dupuisf) [inline Batteries/Data/Vector/Lemmas.lean:38]:
```suggestion
@[ext]
protected theorem ext (a b : Vector α n) (h : (i : Nat) → i < n → a[i] = b[i]) : a = b := by
```

Comment (fgdorais) [reply Batteries/Data/Vector/Lemmas.lean:38]: The `_` is needed for `getElem` to work.

File: Batteries/Data/Vector/Basic.lean [hunk 75]
```diff
@@ -0,0 +1,380 @@
...
+  getElem := fun x i h => get x ⟨i, h⟩
+
+/--
+`getD v i v₀` gets the `iᵗʰ` element of v if valid.
+Otherwise it returns `v₀` by default
+-/
+abbrev getD (v : Vector α n) (i : Nat) (v₀ : α) : α := Array.getD v.toArray i v₀
+
+/--`get! v i` gets the `iᵗʰ` element of v if valid, else panics -/
+def get! [Inhabited α] (v : Vector α n) (i : Nat) : α := v.toArray.get! i
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:81]: Delete. Same as `v[i]!`.

File: Batteries/Data/Vector/Basic.lean [hunk 76]
```diff
@@ -0,0 +1,380 @@
...
+
+/-- `get? v i` gets `some v[i]` if `i` is a valid index, otherwise `none` -/
+def get? (v : Vector α n) (i : Nat) : Option α := Array.get? v.toArray i
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:84]: Delete. Same as `v[i]?`.

File: Batteries/Data/Vector/Basic.lean [hunk 77]
```diff
@@ -0,0 +1,380 @@
...
+panics if `v` is empty.
+-/
+abbrev back! [Inhabited α] (v : Vector α n) : α := Vector.get! v (n - 1)
+
+/--
+`v.back?` gets the last element `x` of the array as `some x`
+if it exists. Else the vector is empty and it returns `none`
+-/
+def back? (v : Vector α n) : Option α :=
+  v.get? (n - 1)
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:97]:
```suggestion
abbrev back? (v : Vector α n) : Option α := v[n - 1]?
```

File: Batteries/Data/Vector/Basic.lean [hunk 78]
```diff
@@ -0,0 +1,380 @@
...
+def get! [Inhabited α] (v : Vector α n) (i : Nat) : α := v.toArray.get! i
+
+/-- `get? v i` gets `some v[i]` if `i` is a valid index, otherwise `none` -/
+def get? (v : Vector α n) (i : Nat) : Option α := Array.get? v.toArray i
+
+/--
+`v.back! v` gets the last element of the vector.
+panics if `v` is empty.
+-/
+abbrev back! [Inhabited α] (v : Vector α n) : α := Vector.get! v (n - 1)
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:90]:
```suggestion
abbrev back! [Inhabited α] (v : Vector α n) : α := v[n-1]!
```

File: Batteries/Data/Vector/Basic.lean [hunk 79]
```diff
@@ -0,0 +1,380 @@
...
+/--
+`setN v i h x` sets an element in a vector using a Nat index which is provably valid.
+By default a proof by `get_elem_tactic` is provided.
+
+This will perform the update destructively provided that a has a reference count of 1 when called.
+-/
+def setN (v : Vector α n) (i : Nat) (h : i < n := by get_elem_tactic) (x : α) : Vector α n :=
+  ⟨v.toArray.set (Fin.cast v.size_eq.symm ⟨i, h⟩) x, proof⟩
+  where
+    proof := by {rw [size_set]; exact v.size_eq}
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:129]: Code duplication.
```suggestion
abbrev setN (v : Vector α n) (i : Nat) (h : i < n := by get_elem_tactic) (x : α) : Vector α n := v.set ⟨i, h⟩ x
```

File: Batteries/Data/Vector/Basic.lean [hunk 80]
```diff
@@ -0,0 +1,380 @@
...
+    proof := by
+      rw [size_extract, v.size_eq]
+
+/-- Custom eliminator for `Vector α n` through Arrays -/
+@[elab_as_elim]
+def elimAsArray {motive : ∀ {n}, Vector α n → Sort u} (mk : ∀ a : Array α, motive ⟨a, rfl⟩) :
+    {n : Nat} → (v : Vector α n) → motive v
+  | _, ⟨a, rfl⟩ => mk a
+
+/-- Custom eliminator for `Vector α n` throughLists -/
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:182]:
```suggestion
/-- Custom eliminator for `Vector α n` through `List α` -/
```

File: Batteries/Data/Vector/Basic.lean [hunk 81]
```diff
@@ -0,0 +1,380 @@
...
+If `start` is greater or equal to `stop`, the result is empty.
+If `stop` is greater than the size of `v`, the size is used instead.
+-/
+def extract (v : Vector α n) (start stop : Nat) : Vector α (min stop n - start) :=
+  ⟨Array.extract v.toArray start stop, proof⟩
+  where
+    proof := by
+      rw [size_extract, v.size_eq]
+
+/-- Custom eliminator for `Vector α n` through Arrays -/
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:176]:
```suggestion
/-- Custom eliminator for `Vector α n` through `Array α` -/
```

File: Batteries/Data/Vector/Basic.lean [hunk 82]
```diff
@@ -0,0 +1,380 @@
...
+This will perform the update destructively provided that `v` has a reference count of 1 when called.
+-/
+def swapN (v : Vector α n) (i j : Nat)
+    (hi : i < n := by get_elem_tactic) (hj : j < n := by get_elem_tactic) : Vector α n :=
+  ⟨Array.swap v.toArray (Fin.cast v.size_eq.symm ⟨i, hi⟩) (Fin.cast v.size_eq.symm ⟨j, hj⟩),
+    proof⟩
+  where
+    proof := by
+      rw [size_swap]
+      exact v.size_eq
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:234]: Code duplication.
```suggestion
v.swap ⟨i, hi⟩ ⟨j, hj⟩
```

File: Batteries/Data/Vector/Basic.lean [hunk 83]
```diff
@@ -0,0 +1,380 @@
...
+that the index is valid.
+
+This function takes worst case O(n) time because it has to backshift all elements at positions
+greater than i.
+-/
+def eraseIdxN (v : Vector α n) (i : Nat) (h : i < n := by get_elem_tactic) : Vector α (n - 1) :=
+  ⟨Array.feraseIdx v.toArray (Fin.cast v.size_eq.symm ⟨i, h⟩), proof⟩
+  where
+    proof := by
+      rw [Array.size_feraseIdx, v.size_eq]
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:361]: Code duplication.
```suggestion
v.eraseIdx ⟨i, h⟩
```

**Review by fgdorais — CHANGES_REQUESTED** [review]

File: Batteries/Data/Vector/Lemmas.lean (hunk 74 above)
Comment (dupuisf) [reply Batteries/Data/Vector/Lemmas.lean:38]: Oh. Weird.

File: Batteries/Data/Vector/Basic.lean [hunk 84]
```diff
@@ -0,0 +1,380 @@
...
+  | ⟨a, h₁⟩, ⟨b, h₂⟩, f => ⟨Array.zipWith a b f, by simp [Array.size_zipWith, h₁, h₂]⟩
+
+/-- Drops `i` elements from a vector of length `n`; we can have `i > n`. -/
+def drop (i : Nat) (v : Vector α n) : Vector α (n - i) :=
+  have : min n n - i = n - i := by
+    rw [Nat.min_self]
+  Vector.cast this (extract v i n)
+
+/-- Takes `i` elements from a vector of length `n`; we can have `i > n`. -/
+alias take := shrink
```
Comment (fgdorais) [inline Batteries/Data/Vector/Basic.lean:203]: `Vector.shrink` needs to be defined before this. Right now this is an alias for `Array.shrink`.

Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 83 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 81 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 80 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 79 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 77 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Basic.lean (hunk 75 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Basic.lean]: Done.

File: Batteries/Data/Vector/Lemmas.lean (hunk 74 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Lemmas.lean:38]: Can this thread be resolved then?

**Comment by fgdorais** [comment]
I went ahead and golfed the size proofs since that was easier than individual suggestions. You can revert any changes you are unhappy with.

**Review by fgdorais — APPROVED** [review]

**Comment by Shreyas4991** [comment]
> I went ahead and golfed the size proofs since that was easier than individual suggestions. You can revert any changes you are unhappy with.

Another question : I wrote some of these proofs with `rw` or `simp only`, which now use `simp` proofs. I am not sure what the `..` does and whether it makes sense to have proofs based on `simp`.

**Comment by fgdorais** [comment]
The `..` fill in the arguments automatically. It's okay to have these proofs use `simp` since they are very quick.

**Review by YaelDillies — COMMENTED** [review]
Could you explicitly indicate in the docstrings the cost of each operation? See `List.map` for what I mean.

**Comment by Shreyas4991** [comment]
> Could you explicitly indicate in the docstrings the cost of each operation? See `List.map` for what I mean.

We maintained those complexity annotations where the corresponding Array docstring stated the complexity. For the rest, at some point, we just agreed that predicting whether an operation is an in-place edit is not trivial.

File: Batteries/Data/Vector/Lemmas.lean [hunk 85]
```diff
@@ -0,0 +1,49 @@
...
```
Comment (fgdorais) [inline Batteries/Data/Vector/Lemmas.lean:39]: Per a [recent Zulip discussion](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/Generate.20ext_iff.20lemmas/near/449955290), the parameters `a` and `b` should be implicit.

File: Batteries/Data/Vector/Lemmas.lean [hunk 86]
```diff
@@ -0,0 +1,49 @@
...
+
+namespace Vector
+
+unseal Array.mapM.map
+/-- An `empty` vector maps to a `empty` vector. -/
+@[simp]
+theorem map_empty (f : α → β) : map f empty = empty := rfl
+
+
+theorem eq : ∀ v w : Vector α n, v.toArray = w.toArray → v = w
```
[the remark this answers is not in the document]
Comment (fgdorais) [reply Batteries/Data/Vector/Lemmas.lean:26]: Maybe `Vector.mk_inj` instead of `Vector.eq`?

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Batteries/Data/Vector/Lemmas.lean:26]: This one should be called `toArray_injective` and the corresponding iff should be `toArray_inj`

File: Batteries/Data/Vector/Lemmas.lean (hunk 85 above)
Comment (Shreyas4991) [reply Batteries/Data/Vector/Lemmas.lean]: Done.

File: Batteries/Data/Vector/Lemmas.lean (hunk 86 above)
[the remark this answers is not in the document]
Comment (Shreyas4991) [reply Batteries/Data/Vector/Lemmas.lean]: Done.

File: Batteries/Data/Vector/Lemmas.lean [hunk 87]
```diff
@@ -0,0 +1,51 @@
...
+  apply Vector.toArray_injective
+  apply Array.ext
+  · rw [a.size_eq, b.size_eq]
+  · intro i hi _
+    rw [a.size_eq] at hi
+    exact h i hi
+
+end Vector
+
+end Batteries
```
Comment (digama0) [inline Batteries/Data/Vector/Lemmas.lean:51]:
```suggestion
```

File: Batteries/Data/Vector/Basic.lean [hunk 88]
```diff
@@ -0,0 +1,322 @@
...
+/-- `isPrefixOf as bs` returns true iff vector `as` is a prefix of vector`bs` -/
+def isPrefixOf [BEq α] (as : Vector α m ) (bs : Vector α n) : Bool :=
+  Array.isPrefixOf as.toArray bs.toArray
+
+/-- `allDiff as i` returns `true` when all elements of `v` are distinct from each other` -/
+def allDiff [BEq α] (as : Vector α n) : Bool :=
+  Array.allDiff as.toArray
+
+end Vector
+end Batteries
```
Comment (digama0) [inline Batteries/Data/Vector/Basic.lean:322]:
```suggestion
```
